Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Papillary Thyroid Carcinoma
 
Major Surgical or Invasive Procedure:
Total Thyroidectomy
 
History of Present Illness:
Patient is a ___ year old female who has a past medical history
relevant for anxiety, depression, obesity and was referred by 
her
primary care physician for consultation regarding thyroid 
nodule.
She has had a known enlarged lymph node in her left neck for
which she received surveillance ultrasound since the age of ___. 
Most recently on ___ thyroid nodules were seen on lymph 
node
survey ultrasounds for which she had a formal ultrasound done. 
An ultrasound showed a hypoechoic, calcified 3cm x 2cm x 1.2 cm 
nodule on L isthmus that was found to be papillary thyroid 
carcinoma on FNA. 

 
Past Medical History:
Anxiety, Depression, Migraines
 
Social History:
Country of Origin:  ___                                         
Marital status:     Married                                     
Children:           Yes: pregnant with first child, due         
                    ___                                  
Lives with:         ___                            
Work: ___
Tobacco use:        Former smoker                               
Tobacco Use         previouslys smoked ___ ppd from age ___   
Comments:                                                       
Alcohol use:        Past                                        
drinks per week:    1                                           
Alcohol use         none currently                              
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: elliptical daily for 30 min with
                    intervals and walks dogs every day          
___:               eats all food groups                        

Comments:           ethnic background ___ Jewish (both    
                    parents). Husband tested negative for factor
                    XI deficiency.          
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  PREGNANCY                  3 vaginal and 1
                                                 cesarean       
                                                 section without
                                                 hemorrhage     

Father   Living   ___  KIDNEY STONES              low oxalate    
                                                 ___           
                      GLAUCOMA                                  
                      RETROPERITONEAL            no hemorrhagic 
                      SURGERY                    complication   
                      EXTRA KIDNEY                              
                      HIP REPLACEMENT                           
                      BACK SURGERY               no hemorrhagic 
                                                 complication   

Sister   Living   ___  PREGNANCY                  1 vaginal      
                                                 delivery and 1 
                                                 cesarean       
                                                 section without
                                                 hermorrhage    
                      PSEUDOTUMOR CEREBRI        on medication  
                      HYPERTHYROIDISM                           

Uncle    Living       EXTRA KIDNEY                              

Brother  Living   ___  SHOULDER PAIN              no hemorrhagic 
                                                 complication   

Brother  ___     MOTOR VEHICLE                             
                      ACCIDENT                                  

MGM      Deceased ___  BREAST CANCER                             

 
Physical Exam:
Physical Exam:
GEN: A&Ox3, NAD, resting comfortably  
HEENT: NCAT, EOMI, sclera anicteric, neck incision mildly
erythematous but dry and with strips in place, no appreciable
hematoma
CV: RRR  
PULM: no respiratory distress  
ABD: soft, ND, no rebound or guarding  
EXT: warm, well-perfused, no edema  
PSYCH: normal insight, memory, and mood  
WOUND(S): Incision c/d/I
DRAIN(S): N/A
 
Pertinent Results:
___ 07:35AM BLOOD Calcium-7.4*
 
Brief Hospital Course:
Patient had a scheduled total thyroidectomy with limited neck 
dissection by Dr. ___ ___ for her papillary thyroid 
cancer. Patient was hypertensive to the 160s/110s post-op and 
vomited 1L but after getting IV Tylenol and Zofran patient 
returned back to her baseline. Patient also had low calcium on 
discharge 7.4 so she was given a calcium regimen of calcitriol 
and tums to replete.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
Please take Tylenol as needed for any pain. 
RX *acetaminophen 500 mg 500 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Calcitriol 0.5 mcg PO DAILY Duration: 3 Days 
Please take daily for the three days following discharge. 
RX *calcitriol [Rocaltrol] 0.25 mcg 2 capsule(s) by mouth once a 
day Disp #*6 Capsule Refills:*0 
3.  Calcitriol 0.25 mcg PO DAILY Duration: 10 Days 
Please take daily for 10 days after you complete the three days 
worth of 0.5mg Calcitriol.  
RX *calcitriol [Rocaltrol] 0.25 mcg 1 capsule(s) by mouth once a 
day Disp #*10 Capsule Refills:*0 
4.  Calcium Carbonate 1000 mg PO Q8H 
Please take three times a day.  
RX *calcium carbonate [Tums] 200 mg calcium (500 mg) 2 tablet(s) 
by mouth three times a day Disp #*60 Tablet Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN pain 
Please take as needed for pain control.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
6.  Levothyroxine Sodium 200 mcg PO DAILY 
RX *levothyroxine 200 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
7.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Please take as needed for your pain.  
RX *tramadol 50 mg 1 tablet(s) by mouth once every four hours as 
needed Disp #*5 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papillary Thyroid Cancer s/p total thyroidectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular ___ and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement and calcium supplement, please take as prescribed. 
Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth/fingertips or muscle cramps in your legs. If you 
experience any of these symptoms please call Dr. ___ 
___ for advice or if you have severe symptoms go to the 
emergency room. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.
 
Followup Instructions:
___